### PR TITLE
Add +-assoc and +-comm

### PR DESCRIPTION
**Pull request by 3abc**
It's much less painful to work with now.

### CODE REVIEW

File: Cubical/Data/Int/Properties.agda [hunk 1]
```diff
@@ -133,3 +100,156 @@ discreteInt (negsuc n) (negsuc m) with discreteℕ n m
...
+_-_ : Int → Int → Int
+m - pos zero    = m
+m - pos (suc n) = m + negsuc n
+m - negsuc n    = m + pos (suc n)
+
+-- We directly get that addition by a fixed number is an equivalence
+-- without having to do any induction!
+isEquivAddInt : (m : Int) → isEquiv (λ n → n + m)
+isEquivAddInt (pos n)    = isEquivTransport (addEq n)
+isEquivAddInt (negsuc n) = isEquivTransport (subEq (suc n))
```
Comment (ice1000) [inline Cubical/Data/Int/Properties.agda]: Why moving these definitions? It's quite inconvenient for reviewing.

File: Cubical/Data/Int/Properties.agda [hunk 2]
```diff
@@ -133,3 +100,156 @@ discreteInt (negsuc n) (negsuc m) with discreteℕ n m
...
+
+  L3- : ∀ m n → m + (sucInt (negsuc n)) ≡ sucInt (m + (negsuc n))
+  L3- m 0 = sym (sucPred m)
+  L3- m (suc n) = compPath (sym (sucPred _)) (cong sucInt (sym (L' m n)))
+  
+  Lsuc : ∀ m n → m + (sucInt n) ≡ sucInt (m + n)
+  Lsuc m (pos n)    = refl
+  Lsuc m (negsuc n) = L3- m n
+
+  Lpred : ∀ m n → m + (predInt n) ≡ predInt (m + n)
```
Comment (mortberg) [inline Cubical/Data/Int/Properties.agda]: I think this and some of the above lemmas should be exported, e.g. Lnegsuc, L', L3- and Lsuc. (with good names inspired by the standard library names)

File: Cubical/Data/Int/Properties.agda [hunk 3]
```diff
@@ -133,3 +100,156 @@ discreteInt (negsuc n) (negsuc m) with discreteℕ n m
...
+
+  L0+ : ∀ n z → +pos (suc n) z ≡ +pos n (sucInt z)
+  L0+ zero z = refl
+  L0+ (suc n) z = cong sucInt (L0+ n z)
+
+  Lpos : ∀ n z → z + pos n ≡ +pos n z
+  Lpos zero z = refl
+  Lpos (suc n) z = cong sucInt (Lpos n z)
+
+  LHS RHS : {A : Set} {x y : A} → (x ≡ y) → A
```
Comment (mortberg) [inline Cubical/Data/Int/Properties.agda]: These are not used for anything so please delete them

File: Cubical/Data/Int/Properties.agda [hunk 4]
```diff
@@ -133,3 +100,156 @@ discreteInt (negsuc n) (negsuc m) with discreteℕ n m
...
+  L-+base : ∀ {n} → negsuc 0 + pos n ≡ pos n + negsuc 0
+  L-+base {zero} = refl
+  L-+base {suc n} = 
+    negsuc 0 + pos (suc n)  ≡⟨ Lpos (suc n) (negsuc 0)⟩
+    +pos (suc n) (negsuc 0) ≡⟨ L0+ n _ ⟩
+    +pos n (pos 0)          ≡⟨ sym (Lpos n (pos 0)) ⟩
+    pos 0 + pos n           ≡⟨ L++base ⟩ 
+    pos (suc n) + negsuc 0 ∎
+    
+  L--base : ∀ {n} → negsuc 0 + negsuc n ≡ negsuc n + negsuc 0
```
Comment (mortberg) [inline Cubical/Data/Int/Properties.agda]: Some of these lemmas are also useful

File: Cubical/Data/Int/Properties.agda (hunk 1 above)
Comment (3abc) [reply Cubical/Data/Int/Properties.agda]: Because it was a different definition under different name (i.e. `_+'_` instead of `_+_`), then it was changed to replace the original one.

**Comment by mortberg** [comment]
By the way: I was expecting some of these proofs to rely on general lemmas about transp commuting in various ways. But it seems like you're not proving any general lemmas at all. Maybe one can generalize things a bit to make the proof slicker?

File: Cubical/Data/Int/Properties.agda (hunk 3 above)
Comment (3abc) [reply Cubical/Data/Int/Properties.agda]: OK. Will remove these. 

I just found `LHS` `RHS` very useful when proving identities, e.g. to prove `complicatedIdentity` I want to know the normal form of it's left hand side, instead of entering it manually I can do `LHS complicatedIdentity` in `C-c C-n`

File: Cubical/Data/Int/Properties.agda (hunk 2 above)
Comment (3abc) [reply Cubical/Data/Int/Properties.agda]: What are some example of good names? I have a hard time come up with these. 

How about renaming `Lpred` to `+predInt≡predInt+`? This still have risk of misunderstanding. 
Maybe `m+[predIntn]≡predInt[m+n]`?

**Comment by mortberg** [comment]
> > By the way: I was expecting some of these proofs to rely on general lemmas about transp commuting in various ways. But it seems like you're not proving any general lemmas at all. Maybe one can generalize things a bit to make the proof slicker?
> 
> Oh with those lemmas it will definitely be slicker. Is it available or do I need to come up with those?

You will need to come up with them. Let me know if you need some help. I'm also not sure in which file to put it, but probably in some new file in Foundations.

File: Cubical/Data/Int/Properties.agda (hunk 1 above)
Comment (ice1000) [reply Cubical/Data/Int/Properties.agda]: Thanks.

**Comment by 3abc** [comment]
> You will need to come up with them. Let me know if you need some help. I'm also not sure in which file to put it, but probably in some new file in Foundations.

I tried some general lemma like

```
Ltransport : ∀ {A B C : Set} (p : A ≡ B) (q : B ≡ C) → ∀ a
  → transport q (transport p a) ≡ transport (compPath p q) a
Ltransport p q a = cong (λ a → transport q (transport p a)) (sym (transportRefl a))
```

It turns out it's not easy to prove something like `compPath (addEq n) (addEq 1) ≡ addEq (suc n)` (probably due to use of `ua` and thus `Glue` in the definition.)

However it's much easier to prove `transport (addEq n)` and `transport (subEq n)` both commute with `sucInt` and `predInt`. (Although the definition of `addEq 1` used `ua`, the normal form of `transport (addEq 1) n` is automatically `sucInt n`, no need to use `uabeta` at all!)

Everything is rewritten with these lemmas.

Also the proof of `+-comm` is simplified.

**Comment by ice1000** [comment]
Why CI is not running for this PR...?

**Comment by 3abc** [comment]
> Why CI is not running for this PR...?

I guess it's because it's PR to `addInt` branch, not `master`.

**Comment by mortberg** [comment]
I merged the addInt branch. Is there some way to make this PR to be against master instead?

**Comment by ice1000** [comment]
@mortberg Yes. Add his fork as your local git remote (`git remote add 3abc https://github.com/3abc/cubical`), fetch his branches (`git fetch 3abc`) and `git merge 3abc/patch-1`.

**Comment by mortberg** [comment]
> @mortberg Yes. Add his fork as your local git remote (`git remote add 3abc https://github.com/3abc/cubical`), fetch his branches (`git fetch 3abc`) and `git merge 3abc/patch-1`.

Oops, by doing this and pushing I merged this into master... It seems like there is some name clash which wasn't caught by Travis as it wasn't run. I will fix and push directly to master.

**Comment by mortberg** [comment]
I will also close this PR as all the code has been merged. 

@3abc Can you please add the other definitions of + in another PR and prove that they are equal to the one you did here?

**Comment by ice1000** [comment]
> Oops, by doing this and pushing I merged this into master...

This should not happen, but maybe I forgot to say that you should be on the dev branch instead of master (because `git merge` merges the specified branch into current branch)?

**Comment by ice1000** [comment]
Ooops, I've just realized that you're saying "make this PR against master" instead of "merge this PR into your dev branch"... 😅 
Apologize for all these.
